US07365079B2
(1) Preparation of 1,5-diamino-3-(4-fluorophenyl)-1H-pyrazole
Hydroxylamine-O-sulfonic acid (2.26 g, 20.0 mmol) was portionwise added to aqueous solution (100 mL) containing 5-amino-3-(4-fluorophenyl)-1H-pyrazole (2.0 g, 11.3 mmol) and potassium hydroxide (2.52 g, 45 mmol) while stirring at 80° C. After the mixture was stirred at 80° C. for 30 minutes, potassium hydroxide (2.52 g, 45 mmol) was added thereto, hydroxylamine-O-sulfonic acid (2.26 g, 20.0 mmol) was portionwise added, and the mixture was stirred for further 1 hour. The reaction solution was cooled down to room temperature, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous potassium carbonate, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (C-300, hexane:ethyl acetate=1:2) to obtain the title compound (324 mg, 14.9%).

reactant | Hydroxylamine-O-sulfonic acid | 20.0 mmol, 2.26 g | NOS(=O)(=O)O | H3NO4S
reactant | 5-amino-3-(4-fluorophenyl)-1H-pyrazole | 11.3 mmol, 2.0 g | NC1=CC(=NN1)C1=CC=C(C=C1)F | C9H8FN3
reactant | potassium hydroxide | 45 mmol, 2.52 g | [OH-].[K+]
reactant | potassium hydroxide | 45 mmol, 2.52 g | [OH-].[K+]
reactant | hydroxylamine-O-sulfonic acid | 20.0 mmol, 2.26 g | NOS(=O)(=O)O | H3NO4S
product | 1,5-diamino-3-(4-fluorophenyl)-1H-pyrazole | 324 mg, 14.9% | NN1N=C(C=C1N)C1=CC=C(C=C1)F | C9H9FN4
